US07820680B2
Step 3: N-{2-[2-(4-Fluorobenzyl)-9-hydroxy-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidine-4-yl]ethyl}-N′-isopropyl-N-methylthiourea
To a suspension of 2-(4-fluorobenzyl)-7-isopropyl-4-[2-(methylamino)ethyl]-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl acetate hydrochloride (37 mg, 0.077 mmol) in CH2Cl2 (830 μL) were added isopropyl isothiocyanate (15 μL) and triethylamine (36 μL) in CH2Cl2 (214 μL). The reaction was stirred at ambient temperature for 18 h. The resulting mixture was diluted with EtOAc and filtered, washing with excess EtOAc. The filtrate was concentrated at 40° C. under a steady stream of nitrogen to afford a sticky solid which was dissolved in MeOH (1.5 mL) and treated with K2CO3 (64 mg, 0.46 mmol). The reaction was stirred at ambient temperature for 18 h. Following addition of trifluoroacetic acid, the mixture was filtered through a cotton plug, purified by reverse phase chromatography [95:5 water (+0.1% TFA)/MeCN (+0.1% TFA) to 5:95 water (+0.1% TFA)/MeCN (+0.1% TFA)], and azeotroped with CH2Cl2 to afford the title compound as an off-white foam. 1H NMR (500 MHz, CDCl3) δ 11.80 (br s, 1H), 7.40-7.37 (m, 2H), 7.08-7.05 (m, 2H), 4.69 (d, J=14.5 Hz, 1H), 4.60-4.52 (m, 2H), 4.32-4.26 (m, 1H), 4.09 (d, J=14.0 Hz, 1H), 3.57 (dd, J=3.5, 14.0 Hz, 1H), 3.51-3.40 (m, 2H), 3.01 (s, 3H), 1.71 (br s, 1H), 1.46 (d, J=7.0 Hz, 6H), 1.26 (dd, J=3.5, 6.5 Hz, 6H). HRMS (FT/ES) M+H: calcd for (C24H32FN5O4S)+ 506.2232. found 506.2247.

reactant | 2-(4-fluorobenzyl)-7-isopropyl-4-[2-(methylamino)ethyl]-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl acetate hydrochloride | 0.077 mmol, 37 mg | Cl.C(C)(=O)OC1=C2N(C(N(C1=O)C(C)C)=O)C(CN(C2=O)CC2=CC=C(C=C2)F)CCNC
reactant | isopropyl isothiocyanate | 15 μL | C(C)(C)N=C=S | C4H7NS
reactant | K2CO3 | 0.46 mmol, 64 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 830 μL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 214 μL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | triethylamine | 36 μL | C(C)N(CC)CC | C6H15N
product | N-{2-[2-(4-Fluorobenzyl)-9-hydroxy-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidine-4-yl]ethyl}-N′-isopropyl-N-methylthiourea | FC1=CC=C(CN2C(C=3N(C(N(C(C3O)=O)C(C)C)=O)C(C2)CCN(C(=S)NC(C)C)C)=O)C=C1 | C24H32FN5O4S
